US08110585B2
methyl 5-bromo-1H-indazole-4-carboxylate
To a solution of methyl 3-amino-6-bromo-2-methylbenzoate (5.44 g, 22.3 mmol) in acetic acid (110 mL) was added a solution of sodium nitrite (1.69 g, 24.5 mmol) in water (11 mL) at room temperature, and the mixture was stirred for 20 hr. The organic solvent was evaporated under reduced pressure. The residual aqueous solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=10/90→30/70) to give the title compound (4.86 g, yield 86%).

reactant | methyl 3-amino-6-bromo-2-methylbenzoate | 22.3 mmol, 5.44 g | NC=1C(=C(C(=O)OC)C(=CC1)Br)C | C9H10BrNO2
reactant | sodium nitrite | 24.5 mmol, 1.69 g | N(=O)[O-].[Na+]
solvent | acetic acid | 110 mL | C(C)(=O)O | C2H4O2
solvent | water | 11 mL | O | H2O
product | methyl 5-bromo-1H-indazole-4-carboxylate | 4.86 g, yield 86% | BrC1=C(C=2C=NNC2C=C1)C(=O)OC | C9H7BrN2O2
